### PR TITLE
[Merged by Bors] - feat: the ring of integers of the p-th cyclotomic field is a PID if p = 3 or p = 5

### PR DESCRIPTION
**Pull request by riccardobrasca**
We prove that the ring of integers of the p-th cyclotomic field is a PID if p = 3 or p = 5.

From flt-regular

- [x] depends on: #10492 
- [x] depends on: #10502 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/Cyclotomic/PID.lean [hunk 1]
```diff
@@ -0,0 +1,58 @@
...
+
+namespace IsCyclotomicExtension.Rat
+
+open NumberField Polynomial InfinitePlace Nat Real cyclotomic
+
+variable (K : Type u) [Field K] [NumberField K]
+
+/-- If `IsCyclotomicExtension {3} ℚ K` then `𝓞 K` is a principal ideal domain. -/
+theorem three_pid [IsCyclotomicExtension {3} ℚ K] : IsPrincipalIdealRing (𝓞 K) := by
+  have hp : Fact (Nat.Prime ((3 : ℕ+) : ℕ)) := ⟨Nat.prime_three⟩
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Cyclotomic/PID.lean:31]: I hate these gymnastics...

File: Mathlib/NumberTheory/Cyclotomic/PID.lean [hunk 2]
```diff
@@ -0,0 +1,58 @@
...
+  apply RingOfIntegers.isPrincipalIdealRing_of_abs_discr_lt
+  rw [absdiscr_prime 3 K, IsCyclotomicExtension.finrank (n := 3) K
+    (irreducible_rat (by norm_num)), nrComplexPlaces_eq_totient_div_two 3, totient_prime hp.1]
+  simp only [Int.reduceNeg, show ((3 : ℕ+) : ℕ) = 3 by rfl, succ_sub_succ_eq_sub, tsub_zero,
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Cyclotomic/PID.lean:35]: There should be a `simp` lemma that does `((3 : ℕ+) : ℕ) = 3` for all positive values of `3`. But I cannot figure out how to spell it so that it works.

File: Mathlib/NumberTheory/Cyclotomic/PID.lean [hunk 3]
```diff
@@ -0,0 +1,58 @@
...
+    zero_lt_two, Nat.div_self, pow_one, cast_ofNat, neg_mul, one_mul, abs_neg, Int.cast_abs,
+    Int.int_cast_ofNat, factorial_two, gt_iff_lt, abs_of_pos (show (0 : ℝ) < 3 from by norm_num)]
+  suffices (2 * (3 / 4) * (2 ^ 2 / 2)) ^ 2 < (2 * (π / 4) * (2 ^ 2 / 2)) ^ 2 by
+    exact lt_trans (by norm_num) this
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Cyclotomic/PID.lean:39]:
```suggestion
  suffices (2 * (3 / 4) * (2 ^ 2 / 2)) ^ 2 < (2 * (π / 4) * (2 ^ 2 / 2)) ^ 2 from
    lt_trans (by norm_num) this
```

File: Mathlib/NumberTheory/Cyclotomic/PID.lean [hunk 4]
```diff
@@ -0,0 +1,58 @@
...
+  have hp : Fact (Nat.Prime ((5 : ℕ+) : ℕ)) := ⟨by decide⟩
+  apply RingOfIntegers.isPrincipalIdealRing_of_abs_discr_lt
+  rw [absdiscr_prime 5 K, IsCyclotomicExtension.finrank (n := 5) K
+    (irreducible_rat (by norm_num)), nrComplexPlaces_eq_totient_div_two 5, totient_prime hp.1]
+  simp only [Int.reduceNeg, show ((5 : ℕ+) : ℕ) = 5 by rfl, succ_sub_succ_eq_sub, tsub_zero,
+    reduceDiv, even_two, Even.neg_pow, one_pow, cast_ofNat, Int.reducePow, one_mul, Int.cast_abs,
+    Int.int_cast_ofNat, div_pow, gt_iff_lt, show 4! = 24 by rfl, abs_of_pos
+    (show (0 : ℝ) < 125 from by norm_num)]
+  suffices (2 * (3 ^ 2 / 4 ^ 2) * (4 ^ 4 / 24)) ^ 2 < (2 * (π ^ 2 / 4 ^ 2) * (4 ^ 4 / 24)) ^ 2 by
+    exact lt_trans (by norm_num) this
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Cyclotomic/PID.lean:54]:
```suggestion
  suffices (2 * (3 ^ 2 / 4 ^ 2) * (4 ^ 4 / 24)) ^ 2 < (2 * (π ^ 2 / 4 ^ 2) * (4 ^ 4 / 24)) ^ 2 from
    lt_trans (by norm_num) this
```

File: Mathlib/NumberTheory/Cyclotomic/PID.lean [hunk 5]
```diff
@@ -0,0 +1,58 @@
...
+/-- If `IsCyclotomicExtension {5} ℚ K` then `𝓞 K` is a principal ideal domain. -/
+theorem five_pid [IsCyclotomicExtension {5} ℚ K] : IsPrincipalIdealRing (𝓞 K) := by
+  have hp : Fact (Nat.Prime ((5 : ℕ+) : ℕ)) := ⟨by decide⟩
+  apply RingOfIntegers.isPrincipalIdealRing_of_abs_discr_lt
+  rw [absdiscr_prime 5 K, IsCyclotomicExtension.finrank (n := 5) K
+    (irreducible_rat (by norm_num)), nrComplexPlaces_eq_totient_div_two 5, totient_prime hp.1]
+  simp only [Int.reduceNeg, show ((5 : ℕ+) : ℕ) = 5 by rfl, succ_sub_succ_eq_sub, tsub_zero,
+    reduceDiv, even_two, Even.neg_pow, one_pow, cast_ofNat, Int.reducePow, one_mul, Int.cast_abs,
+    Int.int_cast_ofNat, div_pow, gt_iff_lt, show 4! = 24 by rfl, abs_of_pos
+    (show (0 : ℝ) < 125 from by norm_num)]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Cyclotomic/PID.lean:52]:
```suggestion
    (show (0 : ℝ) < 125 by norm_num)]
```

File: Mathlib/NumberTheory/Cyclotomic/PID.lean [hunk 6]
```diff
@@ -0,0 +1,58 @@
...
+
+/-- If `IsCyclotomicExtension {3} ℚ K` then `𝓞 K` is a principal ideal domain. -/
+theorem three_pid [IsCyclotomicExtension {3} ℚ K] : IsPrincipalIdealRing (𝓞 K) := by
+  have hp : Fact (Nat.Prime ((3 : ℕ+) : ℕ)) := ⟨Nat.prime_three⟩
+  apply RingOfIntegers.isPrincipalIdealRing_of_abs_discr_lt
+  rw [absdiscr_prime 3 K, IsCyclotomicExtension.finrank (n := 3) K
+    (irreducible_rat (by norm_num)), nrComplexPlaces_eq_totient_div_two 3, totient_prime hp.1]
+  simp only [Int.reduceNeg, show ((3 : ℕ+) : ℕ) = 3 by rfl, succ_sub_succ_eq_sub, tsub_zero,
+    zero_lt_two, Nat.div_self, pow_one, cast_ofNat, neg_mul, one_mul, abs_neg, Int.cast_abs,
+    Int.int_cast_ofNat, factorial_two, gt_iff_lt, abs_of_pos (show (0 : ℝ) < 3 from by norm_num)]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Cyclotomic/PID.lean:37]:
```suggestion
    Int.int_cast_ofNat, factorial_two, gt_iff_lt, abs_of_pos (show (0 : ℝ) < 3 by norm_num)]
```

**Review by MichaelStollBayreuth — APPROVED** [review]
LGTM (modulo minor stylistic points)!

File: Mathlib/NumberTheory/Cyclotomic/PID.lean (hunk 2 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/Cyclotomic/PID.lean:35]: Can you add
```lean
@[simp]
lemma PNat.val_ofNat (n : ℕ) : ((no_index (OfNat.ofNat n.succ) : ℕ+) : ℕ) = n.succ := rfl
```
at a suitable place and then use it here?

Comment (riccardobrasca) [reply Mathlib/NumberTheory/Cyclotomic/PID.lean]: Done, thanks for the suggestion!

File: Mathlib/NumberTheory/Cyclotomic/PID.lean (hunk 1 above)
Comment (riccardobrasca) [reply Mathlib/NumberTheory/Cyclotomic/PID.lean:31]: I don't see how we can avoid it. Using `Fact` works quite well in the general case, but here I don't think we can do something better.

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/Cyclotomic/PID.lean:31]: I think the root cause of this is the decision to use `PNat`s in the cyclotomic part of the library.
In any case, it may make sense to add `Fact (Nat.Prime (p : PNat))` instances at least for small explicit `p` (and perhaps also something like `instance {p : Nat} [hp: Fact p.Prime] : Fact [Nat.Prime (Nat.toPNat p)] := ...`.)

Comment (riccardobrasca) [reply Mathlib/NumberTheory/Cyclotomic/PID.lean:31]: I don't think we use `Fact` in global instance. For example [Nat.prime_three](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Nat/Prime.html#Nat.prime_three) is a regular theorem.

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/Cyclotomic/PID.lean:31]:
```lean
instance : Fact (Nat.Prime 3) := inferInstance
```
works.

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/Cyclotomic/PID.lean:31]: [Nat.fact_prime_three](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Nat/Prime.html#Nat.fact_prime_three) (and similar for `2`).

Comment (riccardobrasca) [reply Mathlib/NumberTheory/Cyclotomic/PID.lean:31]: Ops, I've missed that!

Comment (riccardobrasca) [reply Mathlib/NumberTheory/Cyclotomic/PID.lean:31]: I've added those (also for `5`). It's a little unfortunate that we don't current use [PNat.Prime](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/PNat/Prime.html#PNat.Prime) (what we use is of course defeq, but we write the definition by hand). I will maybe refactor this, but in another PR.

Comment (riccardobrasca) [reply Mathlib/NumberTheory/Cyclotomic/PID.lean:31]: And of course we can try to remove `PNat` from the cyclotomic stuff, but that is going to be a lot of work I think.

File: Mathlib/Data/PNat/Prime.lean [hunk 7]
```diff
@@ -123,6 +123,30 @@ theorem prime_two : (2 : ℕ+).Prime :=
...
+instance fact_prime_three' : Fact ((3 : ℕ+) : ℕ).Prime :=
+  ⟨prime_three⟩
+
+theorem prime_five : (5 : ℕ+).Prime :=
+  Nat.prime_five
+
+instance fact_prime_five : Fact (5 : ℕ+).Prime :=
+  ⟨prime_five⟩
+
+instance fact_prime_five' : Fact ((5 : ℕ+) : ℕ).Prime :=
```
Comment (tb65536) [inline Mathlib/Data/PNat/Prime.lean:147]: Is it not possible to deduce this with an instance going from `Fact (p : ℕ+).Prime` to `Fact ((5 : ℕ+) : ℕ).Prime`?

Comment (tb65536) [reply Mathlib/Data/PNat/Prime.lean:147]: Something like this:
```
instance {p : ℕ+} [h : Fact p.Prime] : Fact (p : ℕ).Prime := h
```

Comment (riccardobrasca) [reply Mathlib/Data/PNat/Prime.lean]: Trying it.

**Review by jcommelin — APPROVED** [review]
Thanks :tada: 

If CI passes, please remove the label `awaiting-CI` and merge this yourself, by adding a comment `bors r+`.

bors d+

**Comment by riccardobrasca** [comment]
!bench

**Comment by riccardobrasca** [comment]
bors merge
